US05117022
THE PREPARATION OF SILVER 2,2-DIMETHYL-4-ETHYLHEXANOATE
A solution of silver nitrate (2.12 g, 12.5 mmol. in 10 ml. of water) was added to a solution of sodium 2,2-dimethyl-4-ethylhexanoate (prepared in situ by mixing 2.5 ml. of 5N NaOH and 2.15 g of 2,2-dimethyl-4-ethylhexanoic acid in 30 ml. of water). A white precipitate formed immediately. The mixture was left stirring at room temperature for one hour (protected from light) which was separated out by filtration, washed repeatedly with water and dried under vacuum. Yield (90%).

reactant | silver nitrate | 12.5 mmol, 10 ml, 2.12 g | [N+](=O)([O-])[O-].[Ag+]
reactant | sodium 2,2-dimethyl-4-ethylhexanoate | 5N, 2.5 ml, 2.15 g | CC(C(=O)[O-])(CC(CC)CC)C.[Na+]
product | SILVER 2,2-DIMETHYL-4-ETHYLHEXANOATE | CC(C(=O)[O-])(CC(CC)CC)C.[Ag+] | InChI=1S/C10H20O2.Ag/c1-5-8(6-2)7-10(3,4)9(11)12;/h8H,5-7H2,1-4H3,(H,11,12);/q;+1/p-1
